US06696461B2
12. (8R, 9R)-8-(t-Butydimethylsilyloxy)-6-methoxymethyl-2,3-dimethyl-9-phenyl-5,6,7,8,9,10-hexahydroimidazo[1,2-h][1,7]naphthyridin-7-one
By using a water separator, a mixture of 2.66 g of 6-methoxymethyl-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-one, 4.27 g of ethyl (2R, 3R)-3-amino-2-(t-butyldimethylsilyloxy)-3-phenylpropionate, 70 mg of p-toluenesulfonic acid and 15 ml of toluene is boiled at reflux for 1.5 h. After cooling, 15 ml of tetrahydrofuran are added. With introduction of argon, the mixture is cooled to an internal temperature of −25° C. 15.4 ml of a commercial 2 molar solution of lithium diisopropylamide (Aldrich) are then added. The solution is stirred at −25° C. for 30 min. The solution is then allowed to warm to room temperature (30 min.) and poured into 30 ml of saturated aqueous ammonium chloride solution, the mixture is extracted three times with in each case 20 ml of ethyl acetate and the combined extracts are concentrated to dryness in vacuo. Purification on silica gel (mobile phase: methylene chloride/methanol=100/3) gives 5.2 g of the title compound as a yellowish amorphous solid. 1H-NMR(CDCl3, δ), 7.33-7.45 (m, 5H), 5.95 (d, 1H), 4.55-4.65 (dd, 1H), 4.2-4.4 (dd, 2H), 3.2-3.75 (m, 3H), 3.3 (s, 3H), 2.91-3.1 (q, 1H), 2.15 (s, 6H), 0.6 (d, 9H), 0.08 (d, 3H), −0.3 (d, 3H).

reactant | 6-methoxymethyl-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-one | 2.66 g | COCC1CC(C=2N(C1)C(=C(N2)C)C)=O | C11H16N2O2
reactant | ethyl (2R, 3R)-3-amino-2-(t-butyldimethylsilyloxy)-3-phenylpropionate | 4.27 g | N[C@@H]([C@H](C(=O)OCC)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C17H29NO3Si
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
catalyst | p-toluenesulfonic acid | 70 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (8R, 9R)-8-(t-Butydimethylsilyloxy)-6-methoxymethyl-2,3-dimethyl-9-phenyl-5,6,7,8,9,10-hexahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 5.2 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H](NC=2C=3N(CC(C2C1=O)COC)C(=C(N3)C)C)C3=CC=CC=C3 | C26H37N3O3Si
